US03934008
7. H-Val-Gly-Ala-Pro-OtBu
533 mg of Z-Val-Gly-Ala-Pro-OtBu are hydrogenated in 10 ml of methanol in the presence of 300 mg of Pd on charcoal (10%) at room temperature. The hydrogen uptake has ended after 20 minutes. The catalyst is filtered off and the filtrate evaporated in a waterpump vacuum at 30°C to give an oil. Rf = 0.52 in the system chloroform-methanol (1:1) on silica gel.

reactant | Z-Val-Gly-Ala-Pro-OtBu | 533 mg | N([C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C27H40N4O7
reactant | hydrogen | [H][H] | H2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd on charcoal | 300 mg | [Pd] | Pd
product | H-Val-Gly-Ala-Pro-OtBu | N[C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C19H34N4O5
